US04014889
320 ml of absolute dimethylformamide, 42.5 g (0.4 mol) of freshly distilled benzaldehyde and 9.8 g (0.2 mol) of sodium cyanide are introduced into a 500 ml 4-necked flask equipped with dropping funnel, stirrer, KOH drying tube and internal thermometer. A week exothermic reaction takes place after the addition of sodium cyanide to the reaction mixture and the temperature rises from 30° to 34° C. The reaction mixture is stirred for 15 minutes at a reaction temperature of 30° C and a solution of 15.9 g (0.3 mol) of freshly distilled acrylonitrile and 80 ml of absolute dimethylformamide is introduced dropwise into the reaction mixture in the course of one hour at the same temperature. Stirring is then continued for 1/4 hours at the same temperature. The reaction mixture, which is now very creamy, is poured on to 800 ml of water and vigorously shaken. The aqueous solution is extracted twice with 200 ml of chloroform and twice with 100 ml of chloroform. The combined chloroform solutions are vigorously washed with water and dried over MgSO4 and the chloroform is distilled off. Inoculating crystals are added to the residue. β-Benzoyl-propionitrile then crystallises at once. It is suction filtered and washed with ethanol. 26.6 g of β-benzoylpropionitrile are obtained. M.p.: 69° C.

reactant | dimethylformamide | 320 ml | CN(C=O)C | C3H7NO
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanide | 0.2 mol, 9.8 g | [C-]#N.[Na+]
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 800 ml | O | H2O
product | β-benzoylpropionitrile | 26.6 g | C(C1=CC=CC=C1)(=O)CCC#N | C10H9NO
